US04874775
N-dodecyl-N-(pyridin-3-ylmethyl)-methanesulfonamide
A 4.1 g. portion of 3-dodecylaminomethylpyridine was dissolved in 15 ml. of dichloromethane, and 2.7 g. of potassium carbonate and 1.6 ml. of methanesulfonyl chloride were added. The mixture was stirred for 3 days at ambient temperature, and was then diluted with dichloromethane and extracted with water. The organic layer was dried and evaporated to an oil, which was dissolved in dichloromethane and chromatographed over silica gel, eluting with dichloromethane. The product-containing fractions were combined and evaporated to obtain 3.5 g. of oil which crystallized on standing, and was triturated with cold petroleum ether and diethyl ether. The solids were dried to obtain 3.2 g. of the desired product, m.p. 43°-44°.

reactant | 3-dodecylaminomethylpyridine | C(CCCCCCCCCCC)NCC=1C=NC=CC1 | C18H32N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-dodecyl-N-(pyridin-3-ylmethyl)-methanesulfonamide | C(CCCCCCCCCCC)N(S(=O)(=O)C)CC=1C=NC=CC1 | C19H34N2O2S
